### PR TITLE
[Merged by Bors] - feat: add last implication of portmanteau characterizations of weak convergence

### PR DESCRIPTION
**Pull request by kkytola**
This PR adds the last missing implication of the general case of portmanteau equivalent characterizations of convergence in distribution: a sufficient condition for convergence in distribution of a sequence of probability measures is that for all open sets the candidate limit measure is at most the liminf of the measures.

---

(There are more equivalent conditions dubbed portmanteau for the special case of convergence in distribution on R, though. Some of them are easy and I'll add soon. The ones with characteristic functions require characteristic functions.)

One restriction in this implication is that it really talks about a sequence and the `atTop` filter rather than a general filter like the other implications. The reason is that Fatou's lemma is used (and it is not obvious to me that it could be generalized to much more than countably generated filters in countable types).

One design choice in the proof is that I could not use the relevant lemma `Monotone.map_liminf_of_continuousAt` to commute `liminf` with `ENNReal.toReal`, since the lemma assumes monotonicity, but `ENNReal.toReal` fails to be monotone because of +infty. I used a truncated variant `ENNReal.truncateToReal` instead. Perhaps a more principled strategy would have been to prove a generalization `MonotoneOn.map_liminf_of_continuousAt`, but it was less straightforward to do the correct statement and proof.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 1]
```diff
@@ -22,8 +22,18 @@ namespace BoundedContinuousFunction
...
+    f x ≤ nndist 0 f := by
+  convert nndist_coe_le_nndist x
+  simp only [coe_zero, Pi.zero_apply, NNReal.nndist_zero_eq_val]
+
 variable {X : Type*} [MeasurableSpace X] [TopologicalSpace X] [OpensMeasurableSpace X]
 
+lemma lintegral_le_edist_mul (f : X →ᵇ ℝ≥0) (μ : Measure X) :
+    (∫⁻ x, f x ∂μ) ≤ edist 0 f * (μ Set.univ) := by
+  apply le_trans (lintegral_mono (fun x ↦ ENNReal.coe_le_coe.mpr (f.apply_le_nndist_zero x)))
+  simp
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:35]:
```suggestion
    (∫⁻ x, f x ∂μ) ≤ edist 0 f * (μ Set.univ) :=
  le_trans (lintegral_mono (fun x ↦ ENNReal.coe_le_coe.mpr (f.apply_le_nndist_zero x))) (by simp)
```

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean [hunk 2]
```diff
@@ -77,13 +78,24 @@ probability measure
 
 noncomputable section
 
-open MeasureTheory
+open MeasureTheory Set Filter BoundedContinuousFunction
 
-open Set
+-- Q: Where do these belong? (Tried `Topology.Instances.Real` and `Order.LiminfLimsup` and
+-- `Topology.Algebra.Order.LiminfLimsup` but none worked. `#find_home` suggests the present file.)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Portmanteau.lean:84]: I haven't found a good file. You could create a new one, in `Topology.Order`. For sure, it shouldn't be in the current file!

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean [hunk 3]
```diff
@@ -539,4 +551,127 @@ lemma le_liminf_measure_open_of_forall_tendsto_measure
...
+      exact (Real.norm_of_nonneg (f_nn x)).symm
+
+lemma tendsto_integral_of_forall_integral_le_liminf_integral {ι : Type*} {L : Filter ι}
+    {μ : Measure Ω} [IsProbabilityMeasure μ] {μs : ι → Measure Ω} [∀ i, IsProbabilityMeasure (μs i)]
+    (h : ∀ f : Ω →ᵇ ℝ, 0 ≤ f → ∫ x, (f x) ∂μ ≤ L.liminf (fun i ↦ ∫ x, (f x) ∂ (μs i)))
+    (f : Ω →ᵇ ℝ) :
+    Tendsto (fun i ↦ ∫ x, (f x) ∂ (μs i)) L (𝓝 (∫ x, (f x) ∂μ)) := by
+  by_cases L_bot : L = ⊥
+  · simp only [L_bot, tendsto_bot]
+  have : NeBot L := ⟨L_bot⟩
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Portmanteau.lean:628]:
```suggestion
  rcases eq_or_neBot L with rfl|hL
  · simp only [tendsto_bot]
```

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean [hunk 4]
```diff
@@ -539,4 +551,127 @@ lemma le_liminf_measure_open_of_forall_tendsto_measure
...
+    (h_opens : ∀ G, IsOpen G → μ G ≤ atTop.liminf (fun i ↦ μs i G)) :
+    atTop.Tendsto (fun i ↦ μs i) (𝓝 μ) := by
+  refine ProbabilityMeasure.tendsto_iff_forall_integral_tendsto.mpr ?_
+  apply tendsto_integral_of_forall_integral_le_liminf_integral
+  intro f f_nn
+  apply integral_le_liminf_integral_of_forall_isOpen_measure_le_liminf_measure (f := f) f_nn
+  intro G G_open
+  specialize h_opens G G_open
+  simp only at h_opens
+  have aux := Monotone.map_liminf_of_continuousAt (F := atTop) ENNReal.coe_mono (μs · G) ?_ ?_ ?_
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Portmanteau.lean:662]: I think the proof would be easier to read if you stated the full type of `aux`, then proved it, and then completed the proof with it. Otherwise, it is hard to decipher what the four remaining goals correspond to. If you prefer to switch the order, you can use `suffices ... by`

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 5]
```diff
@@ -1630,6 +1671,44 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞)
   (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
     (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
 
-end ENNReal -- namespace
+/-- If `xs : ι → ℝ≥0∞` is bounded, then we have `liminf (toReal ∘ xs) = toReal (liminf xs)`. -/
+lemma liminf_toReal_eq {ι : Type*} {F : Filter ι} [NeBot F] {b : ℝ≥0∞} (b_ne_top : b ≠ ∞)
+    {xs : ι → ℝ≥0∞} (le_b : ∀ i, xs i ≤ b) :
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/ENNReal.lean:1676]: could you weaken `le_b` to assume that this is eventually true for `F`? Same in the next lemma.

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean [hunk 6]
```diff
@@ -539,4 +534,128 @@ lemma le_liminf_measure_open_of_forall_tendsto_measure
...
+  · have key := h _ (f.norm_sub_nonneg)
+    simp_rw [f.integral_const_sub ‖f‖] at key
+    simp only [measure_univ, ENNReal.one_toReal, smul_eq_mul, one_mul] at key
+    have := liminf_const_sub L (fun i ↦ ∫ x, (f x) ∂ (μs i)) ‖f‖ bdd_above bdd_below
+    rwa [this, sub_le_sub_iff_left] at key
+  · exact bdd_above
+  · exact bdd_below
+
+/-- One implication of the portmanteau theorem:
+If for all open sets G we have the limsup condition μ(G) ≤ liminf μsᵢ(G), then the measures
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Portmanteau.lean:631]:
```suggestion
If for all open sets G we have the liminf condition `μ(G) ≤ liminf μsᵢ(G)`, then the measures
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by kkytola** [comment]
> ✌️ kkytola can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+

**Comment by kkytola** [comment]
> > ✌️ kkytola can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).
> 
> bors r+

bors r+
